Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / Benadryl / 
vancomycin / Phenergan
 
Attending: ___.
 
Chief Complaint:
Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ ___ woman who presented to the ED with pain "all
over her body" in the setting of a self-reported sickle cell 
disease.  Patient
reports that her pain began approximate 2 days ago and was not
controlled with oxycodone 30mg prescribed by her PCP in ___.
She denies any fevers or chills. No shortness of breath. No 
cough
or headache. No recent illnesses.  Patient reports that she did
experience bilateral lower extremity swelling earlier this week. 

Patient moved from ___ 2 months ago.

 
Past Medical History:
Sickle cell disease
 
Social History:
___
Family History:
Brother - sickle cell disease
Sisters - sickle cell trait
Cousin - ___
Cousin - ___ Cancer

 
Physical Exam:
ADMISSION EXAM:
================
GENERAL: AAOx3, NAD
HEENT: NC/AT, PERRL, EOMI, Sclera anicteric, MMM
NECK: supple, no LAD
CARDIAC: RRR, +S1/2, no murmurs
LUNGS: CTAB, no wheezing, rales, rhonchi
ABDOMEN: soft, obese, NTND, +BS
EXTREMITIES: No clubbing, cyanosis, or edema
SKIN: warm, no rashes
NEUROLOGIC: CN2-12 intact, ___ strength throughout, Normal
sensation

DISCHARGE EXAM:
===============
VITALS: ___ 2336 Temp: 98.2 PO BP: 120/77 L Lying HR: 72 
RR:
18 O2 sat: 98% O2 delivery: Ra 
GENERAL: AAOx3, NAD, lying comfortably in bed
HEENT: NC/AT, PERRL, EOMI, Sclera anicteric, MMM
NECK: supple, no LAD
CARDIAC: RRR, +S1/2, no murmurs
LUNGS: CTAB, no wheezing, rales, rhonchi
ABDOMEN: soft, obese, NTND, +BS
EXTREMITIES: No clubbing, cyanosis, or edema. Strong pulses
bilaterally
SKIN: warm, no rashes
NEUROLOGIC: CN2-12 intact, ___ strength throughout, Normal
sensation

 
Pertinent Results:
ADMISSION LABS:
-----------------
___ 07:08AM BLOOD WBC-6.6 RBC-4.55 Hgb-12.2 Hct-38.6 MCV-85 
MCH-26.8 MCHC-31.6* RDW-14.2 RDWSD-43.6 Plt ___
___ 07:28AM BLOOD ___ PTT-30.9 ___
___ 07:08AM BLOOD Glucose-119* UreaN-9 Creat-0.9 Na-139 
K-5.6* Cl-99 HCO3-25 AnGap-15
___ 06:05AM BLOOD LD(LDH)-263* TotBili-0.3 DirBili-<0.2 
IndBili-0.3
___ 06:05AM BLOOD Calcium-8.8 Phos-3.2 Mg-2.2

DISCHARGE LABS:
----------------
___ 06:05AM BLOOD WBC-5.8 RBC-4.44 Hgb-11.5 Hct-37.1 MCV-84 
MCH-25.9* MCHC-31.0* RDW-13.5 RDWSD-41.4 Plt ___
___ 06:05AM BLOOD Glucose-77 UreaN-7 Creat-0.6 Na-143 K-4.2 
Cl-105 HCO3-22 AnGap-16
___ 06:05AM BLOOD Calcium-8.8 Phos-3.2 Mg-2.2
___ 06:05AM BLOOD Hapto-194
___ 07:08AM BLOOD 25VitD-11*
___ 07:08AM BLOOD HCG-<___ with PMH of self-reported history of sickle cell disease 
presenting with pain syndrome.

#Pain Syndrome
Recent immigrant from ___ who presented with a 2-day history 
of worsening body aches and pains similar to prior pain crises. 
Occasionally able to control with PO Oxycodone 30mg Q4 at home, 
though did not have any oral given no PCP ___. The patient was 
given 3mg IV Dilaudid every ___ hours overnight. On the day 
after admission she was changed to oral Oxycodone 15mg PO Q4 
hours PRN which continued to control her pain. She was 
discharged on this regimen with PCP follow up on ___. She also 
received a total of 4L NS during admission. Her clinical history 
seems consistent with sickle cell disease, however her labs were 
not overall consistent with this diagnosis. Hgb electrophoresis 
was sent while she was inpatient, and she will follow up with 
Heme/Onc as well to confirm this diagnosis.

** Addendum **

Post discharge the patient's hemoglobin electrophoresis returned 
showing no abnormal hemoglobin bands

Hemogloblin A:    97.6 %
Hemogloblin S:    0%
Hemoglobin C:     0%
Hemoglobin A2:   2.4%
Hemoglobin F:      0%

#Vitamin D deficiency: Vitamin D 50,000IU weekly x 8 weeks then 
recheck

TRANSITIONAL ISSUES:
====================
[] Please follow up gel electrophoresis to confirm sickle cell 
disease (not anemic, no sickle cells on RBC morphology, 
normocytic)
[] Pain: The patient will likely require a narcotics contract, 
pain well controlled on 15mg PO Oxycodone Q4 hours PRN
- Discharged with a four day supply for a total of 24 tablets
[] Please recheck vitamin D after repletion course

#CODE: Full (presumed)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. OxyCODONE (Immediate Release) 30 mg PO PRN Pain - Moderate 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth Every eight hours 
Disp #*30 Tablet Refills:*0 
2.  Vitamin D ___ UNIT PO 1X/WEEK (TH) Duration: 8 Weeks 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth Every ___ Disp #*8 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 15 mg PO Q4H:PRN Pain - Severe 

RX *oxycodone 15 mg 1 tablet(s) by mouth Every four hours Disp 
#*24 Tablet Refills:*0 
4.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Pain syndrome NOS
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because:
- You developed severe pain
- This was because of a flair of your sickle cell disease

While you were here:
- You were treated with IV pain medications
- You were given fluid through your IV
- We helped you find insurance and scheduled follow up 
appointments
- You were given oral pain medications to go home with until 
your follow up appointments

When you leave:
- Please take all of your medications as prescribed
- Please attend all of your follow up appointments as arranged

It was a pleasure to care for you during your hospitalization!

- Your ___ care team
 
Followup Instructions:
___